US04472305
Methylation of BocLeuOH (12.5 g.) using sodium hydride and methyl iodide gave BocMeLeuOH in 73% yield. Condensation of BocMeLeuOH (3.7 g.) and HMetNH2 hydrochloride salt (2.8 g.) by the mixed anhydride method using isobutyl chloroformate gave BocMeLeu-MetNH2 in 56% yield. De-t-butoxycarbonylation of BocMeLeu-MetNH2 (3.3 g.) using hydrogen chloride in ethyl acetate gave MeLeu-MetNH2 in 64% yield.

reactant | BocLeuOH | 12.5 g | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
product | BocMeLeuOH | 73% yield | C(=O)(OC(C)(C)C)N([C@@H](CC(C)C)C(=O)O)C | C12H23NO4
